US06555556B1
4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-(N,N-dimethylcarbamoyl)nitrobenzene
To a solution of 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-3-carboxynitrobenzene (3.4 g) in dichloromethane (60 ml) were added isobutyl chloroformate (1.4 ml) and triethylamine (1.5 ml) in an ice bath and the mixture was stirred at the same temperature for 0.5 hours. To the reaction mixture was added 50% aqueous dimethylamine (1.1 ml) and the resulting mixture was stirred at room temperature for 2 hours. The reaction mixture was concentrated in vacuo. The residue was purified by chromatography on a silica gel column using dichloromethane/methanol=19/1 as an eluant to give the desired compound (3.1 g, yield 83%) as a pale yellow amorphous solid.

reactant | 4-(1-t-butoxycarbonylpiperidin-4-yloxy)-3-carboxynitrobenzene | 3.4 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)[N+](=O)[O-])C(=O)O | C17H22N2O7
reactant | isobutyl chloroformate | 1.4 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | triethylamine | 1.5 ml | C(C)N(CC)CC | C6H15N
reactant | dimethylamine | 1.1 ml | CNC | C2H7N
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | 4-(1-t-Butoxycarbonylpiperidin-4-yloxy)-3-(N,N-dimethylcarbamoyl)nitrobenzene | 3.1 g, yield 83% | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C=C(C=C1)[N+](=O)[O-])C(N(C)C)=O | C19H27N3O6
